US07037925B2
4-(4-Carboxy-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 4-amino-2-methylbenzoic acid (0.036 g, 0.24 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 12 h. After cooling, the mixture was diluted with water (15 ml) and made alkaline with saturated NaHCO3 and was then weakly acidified with acetic acid. The precipitate was filtered of and suspended in warm methanol. After cooling, the precipitate was filtered off and dried to give the title compound (31 mg, 47%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 4-amino-2-methylbenzoic acid | 0.24 mmol, 0.036 g | NC1=CC(=C(C(=O)O)C=C1)C | C8H9NO2
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | 4-(4-Carboxy-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide | 31 mg, 47% | C(=O)(O)C1=CC(=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=C1)C | C20H19N3O5
